fan_smc_frontier_f832eb2260ac29fa - controlled evaluation
.include "/home/cheriearjun/AnalogDesignRL/circuits/benchmark_fan_smc_pin_3/netlist.spice"
.include "/home/cheriearjun/AnalogDesignRL/runs/research_pilot_007/worker/90d6b5a0cd02e22295a9c8025241875d/evaluation_001/parameters.spice"
.param mc_mm_switch=0 mc_pr_switch=0
.include "/home/cheriearjun/AnalogDesignRL/.deps/sky130_pdk/libs.tech/ngspice/corners/tt.spice"
.temp 27
VDD vdd 0 1.8

VIN signal 0 pulse(0.3 0.5 5e-06 1e-08 1e-08 2e-05 6e-05)
Xamp 0 vdd out signal out fan_smc_pin_3
CL out 0 1e-11
.control
set noaskquit
set numdgt=12
set wr_vecnames
set wr_singlescale

tran 5e-09 5e-05 0 5e-09
wrdata transient.tsv v(signal) v(out) i(vdd)

let check_rise_error = abs(v(out) - 0.5)
let check_fall_error = abs(v(out) - 0.3)
let check_tracking_error = abs(v(out) - v(signal))
meas tran check_rise_cross_result when check_rise_error=0.02 fall=last from=5e-06 to=2.5010000000000003e-05
meas tran check_fall_cross_result when check_fall_error=0.02 fall=last from=2.5010000000000003e-05 to=5e-05
meas tran check_tracking_before_result max check_tracking_error from=0 to=5e-06
meas tran check_tracking_high_result max check_tracking_error from=2.00075e-05 to=2.5010000000000003e-05
meas tran check_tracking_low_result max check_tracking_error from=4.3752500000000005e-05 to=5e-05

quit
.endc
.end
